US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (144 mg, 0.43 mmol), (prepared as described for the starting material in Example 67), potassium carbonate (91 mg, 0.66 mmol) and 3-fluoro-7-hydroxyquinoline (77 mg, 0.47 mmol), (prepared as described for the starting material in Example 157), in DMF (3 ml) was stirred at 100° C. for 2 hours and then allowed to cool to ambient temperature. The reaction mixture was evaporated to dryness and the residue chromatographed on silica eluting with methanol/dichloromethane/aqueous ammonia (0.880) (5/100/1). The relevant fractions were combined and evaporated to dryness to give 4-(3-fluoro-quinolin-7-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline (87 mg, 44%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 0.43 mmol, 144 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | potassium carbonate | 0.66 mmol, 91 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluoro-7-hydroxyquinoline | 0.47 mmol, 77 mg | FC=1C=NC2=CC(=CC=C2C1)O | C9H6FNO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(3-fluoro-quinolin-7-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 87 mg, 44% | FC=1C=NC2=CC(=CC=C2C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C26H27FN4O3
